US07683091B2
N-[4-({5-[(Phenylsulfonyl)amino]-1H-indol-1-yl}methyl)benzoyl]-L-phenylalanine
Treatment of ethyl N-{4-[(5-amino-1H-indol-1-yl)methyl]benzoyl}phenylalaninate with benzenesulfonyl chloride followed by LiOH hydrolysis as described in the procedure of Example 1 gave the title compound: MS (ESI) m/z 554; MS (ESI) m/z 552.

reactant | ethyl N-{4-[(5-amino-1H-indol-1-yl)methyl]benzoyl}phenylalaninate | NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC)C=C1 | C27H27N3O3
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | LiOH | [Li+].[OH-]
product | N-[4-({5-[(Phenylsulfonyl)amino]-1H-indol-1-yl}methyl)benzoyl]-L-phenylalanine | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C31H27N3O5S
